US07977327B2
(3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-ethylpyrrolidine
Under cooling with ice, a solution of methyllithium (121 mL, 1.02 M, diethyl ether solution) was added to a suspension of copper(I) iodide (11.8 g, 62.1 mmol) in diethyl ether (200 mL), followed by stirring for 30 minutes. The temperature of the reaction mixture was cooled to −78° C. A solution of (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-(p-toluenesulfonyloxy)methylpyrrolidine (6.27 g, 12.4 mmol) in diethyl ether (140 mL) was added thereto. The temperature of the mixture was elevated gradually, followed by stirring for 1 hour under cooling with ice. Under cooling with ice, a saturated aqueous ammonium chloride solution (100 mL) and 28% aqueous ammonia (25 mL) were added to the resultant mixture, and then water (100 mL) was added thereto, followed by extraction with ethyl acetate (300 mL×2). The combined organic layer was washed by saturated brine (100 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography (ethyl acetate:n-hexane=1:3 to 1:2), to thereby yield the title compound as a colorless oily substance (3.09 g, 71%).

reactant | methyllithium | 1.02 M, 121 mL | C[Li]
reactant | (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-(p-toluenesulfonyloxy)methylpyrrolidine | 12.4 mmol, 6.27 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)COS(=O)(=O)C1=CC=C(C=C1)C)NC(=O)OC(C)(C)C | C25H32N2O7S
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | ammonia | 25 mL | N | H3N
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 140 mL | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 62.1 mmol, 11.8 g | [Cu]I
solvent | water | 100 mL | O | H2O
product | (3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-ethylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)CC)NC(=O)OC(C)(C)C | C19H28N2O4
